US07087605B2
N-[1-(3-Cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]-1,4-dimethylcyclohexanecarboxamide
In analogy to the procedure for Example 36A, 150 mg (0.67 mmol) 6-(1-aminopropyl)-3-cyclopentyl-1,2,4-triazin-5(4H)-one, 130 mg (0.74 mmol) 1,4-dimethylcyclohexanecarbonyl chloride and proportionate amounts of the other reagents are used. The crude product is used in the next step without further purification.

reactant | 6-(1-aminopropyl)-3-cyclopentyl-1,2,4-triazin-5(4H)-one | 0.67 mmol, 150 mg | NC(CC)C=1C(NC(=NN1)C1CCCC1)=O | C11H18N4O
reactant | 1,4-dimethylcyclohexanecarbonyl chloride | 0.74 mmol, 130 mg | CC1(CCC(CC1)C)C(=O)Cl | C9H15ClO
product | N-[1-(3-Cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]-1,4-dimethylcyclohexanecarboxamide | C1(CCCC1)C1=NN=C(C(N1)=O)C(CC)NC(=O)C1(CCC(CC1)C)C | C20H32N4O2
